US07468375B2
3-[(2-Ethoxyethoxy)methyl]-1-(4-fluorobenzyl)-N-methoxy-1H-pyrrolo[2,3-c]pyridine-5-carboxamide
The title compound was prepared as in example 116, step 3, using 3-[(2-ethoxyethoxy)methyl]-1-(4-fluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid, 2-chloro-4,6-dimethoxy-1,3,5-triazine, N-methyl morpholine, and O-methyl hydroxylamine hydrochloride. 1H NMR (400 MHz, DMSO-D6) δ ppm 1.07 (t, J=6.95 Hz, 3H) 3.40 (q, J=6.99 Hz, 2H) 3.47-3.51 (m, 2H) 3.53-3.57 (m, 2H) 3.68 (s, 3H) 4.67 (s, 2H) 5.56 (s, 2H) 7.16 (t, J=8.97 Hz, 2H) 7.31-7.40 (m, 2H) 7.83 (s, 1H) 8.26 (s, 1H) 8.84 (s, 1H) 11.73 (s, 1H)

reactant | 3-[(2-ethoxyethoxy)methyl]-1-(4-fluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid | C(C)OCCOCC1=CN(C2=CN=C(C=C21)C(=O)O)CC2=CC=C(C=C2)F | C20H21FN2O4
reactant | 2-chloro-4,6-dimethoxy-1,3,5-triazine | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
reactant | N-methyl morpholine | CN1CCOCC1 | C5H11NO
reactant | O-methyl hydroxylamine hydrochloride | Cl.CON
product | 3-[(2-Ethoxyethoxy)methyl]-1-(4-fluorobenzyl)-N-methoxy-1H-pyrrolo[2,3-c]pyridine-5-carboxamide | C(C)OCCOCC1=CN(C2=CN=C(C=C21)C(=O)NOC)CC2=CC=C(C=C2)F | C21H24FN3O4
